US06265447B1
A solution of 14 g (0.2 mol) of cyclopropylcarbaldehyde, 22.6 g (0.2 mol) of ethyl cyanoacetate, 1.4 ml of glacial acetic acid and 0.4 ml of piperidine in 200 ml of toluene was refluxed for 6 hours. After cooling, the mixture was washed with in each case 300 ml of 10% strength hydrochloric acid and water. The organic phase was dried and concentrated and the residue was subjected to distillation in vacuo. This gave 14.2 g (yield 43%) of ethyl 2-cyano-3-cyclopropyl-2-propenoate (b.p. 95° C./0.3 mbar).

reactant | ethyl cyanoacetate | 0.2 mol, 22.6 g | C(#N)CC(=O)OCC | C5H7NO2
reactant | acetic acid | 1.4 ml | C(C)(=O)O | C2H4O2
reactant | piperidine | 0.4 ml | N1CCCCC1 | C5H11N
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 2-cyano-3-cyclopropyl-2-propenoate | 14.2 g, yield 43% | C(#N)C(C(=O)OCC)=CC1CC1 | C9H11NO2
